US07592373B2
1.33.d. 3-(4-pyrrolidin-1-ylmethylphenyl)propynoic acid-(4′-chlorobiphenyl-4-yl)amide
A solution of 0.3 g (1.30 mmol) of (4-pyrrolidin-1-ylmethylphenyl)propynoic acid, 0.27 g (1.32 mmol) of 4′-chlorobiphenyl-4-ylamine, 0.42 g (1.32 mmol) of TBTU, and 0.18 mL (1.32 mmol) of triethylamine in 30 mL of DMF is stirred for 14 hours at ambient temperature. The reaction mixture is evaporated down and the residue is extracted with water and dichloromethane. The organic phase is dried over sodium sulfate. The purification is carried out by column chromatography on silica gel (eluant: dichloromethane/ethanol (10:1)). Yield: 0.095 g (17.5% of theory); melting point: from 180° C.; C26H23ClN2O (M=414.93); calc.: molecular ion peak (M+H)+: 415/417; found: molecular ion peak (M+H)+: 415/417; Rf value: 0.3 (silica gel, dichloromethane/ethanol (5:1)).

reactant | (4-pyrrolidin-1-ylmethylphenyl)propynoic acid | 1.30 mmol, 0.3 g | N1(CCCC1)CC1=CC=C(C=C1)C#CC(=O)O | C14H15NO2
reactant | 4′-chlorobiphenyl-4-ylamine | 1.32 mmol, 0.27 g | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | TBTU | 1.32 mmol, 0.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 1.32 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(4-pyrrolidin-1-ylmethylphenyl)propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CN1CCCC1)=O | C26H23ClN2O
